US09340546B2
5-bromo-4-(4-methylpiperazin-1-yl)pyridin-3-amine (3000 mg, 11.06 mmol), hexane-2,5-dione (6.312 g, 6.487 mL, 55.30 mmol) in acetic acid (20 mL) was heated at 70° C. overnight. The reaction mixture was concentrated in vacuo and the residue was partitioned between EtOAc and an aqueous saturated solution of NaHCO3. Combined organic extract was washed with brine, dried (MgSO4) and concentrated in vacuo yielding an oil that was purified by filtration on silica to yield 1-(3-bromo-5-(2,5-dimethyl-1H-pyrrol-1-yl)pyridin-4-yl)-4-methylpiperazine as an off-white solid. MS (ES+) 351.1.

reactant | 5-bromo-4-(4-methylpiperazin-1-yl)pyridin-3-amine | 11.06 mmol, 3000 mg | BrC=1C(=C(C=NC1)N)N1CCN(CC1)C | C10H15BrN4
reactant | hexane-2,5-dione | 55.30 mmol, 6.487 mL, 6.312 g | CC(CCC(C)=O)=O | C6H10O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 1-(3-bromo-5-(2,5-dimethyl-1H-pyrrol-1-yl)pyridin-4-yl)-4-methylpiperazine | BrC=1C=NC=C(C1N1CCN(CC1)C)N1C(=CC=C1C)C | C16H21BrN4
